US06562828B1
1-(Cyclohexylcarbamoylmethyl)-5-cyano-2-[N-[1-(pyridin-4-yl)-piperidin-4-yl]-N-ethoxalylaminomethyl]benzimidazole
To a solution of 1-(cyclohexylcarbamoylmethyl)-5-cyano-2-[1-(pyridin-4-yl)piperidin-4-ylaminomethyl]benzimidazole (203 mg) and triethylamine (0.18 ml) in chloroform (5 ml) was added ethyl chlorooxalate (0.119 ml), and the mixture was stirred at room temperature for 2 hours. After completion of the reaction, water was added, and the mixture was extracted with chloroform and washed with aqueous sodium hydrogencarbonate solution. The organic layer was dried over anhydrous sodium sulfate. The solvent was evaporated and the obtained residue was purified by silica gel column chromatography (chloroform:methanol=95:5, 1% aqueous ammonia) and dried under reduced pressure to give the title compound (205 mg).

reactant | 1-(cyclohexylcarbamoylmethyl)-5-cyano-2-[1-(pyridin-4-yl)piperidin-4-ylaminomethyl]benzimidazole | 203 mg | C1(CCCCC1)NC(=O)CN1C(=NC2=C1C=CC(=C2)C#N)C(C2=CC=NC=C2)NC2CCNCC2 | C27H33N7O
reactant | triethylamine | 0.18 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chlorooxalate | 0.119 ml | C(C(=O)OCC)(=O)Cl | C4H5ClO3
reactant | water | O | H2O
reactant | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(Cyclohexylcarbamoylmethyl)-5-cyano-2-[N-[1-(pyridin-4-yl)-piperidin-4-yl]-N-ethoxalylaminomethyl]benzimidazole | 205 mg | C1(CCCCC1)NC(=O)CN1C(=NC2=C1C=CC(=C2)C#N)CN(C(=O)C(=O)OCC)C2CCN(CC2)C2=CC=NC=C2 | C31H37N7O4
